US08431569B2
Step 4. N-(1-Cyclopropyl-2,2-difluoroethyl)-2-methylpropane-2-sulfinamide
To a solution of N-[1-cyclopropyl-2,2-difluoro-2-(phenylsulfonyl)ethyl]-2-methylpropane-2-sulfinamide (0.8 g, 2.2 mmol) in DMF (30 mL) was added a solution of NaOAc (4.5 g, 55 mmol) in AcOH (4.5 g, 75 mmol) and H2O (7.0 mL). Magnesium turning (0.8 g, 33 mmol) was added in portions at room temperature under a water bath. The reaction mixture was stirred at room temperature overnight. Water (90 mL) was added to the solution, and the aqueous layer was extracted with EtOAc. The combined organics were washed with sat. NaHCO3, dried, concentrated, and purified by flash chromatography to afford the title compound. 1H NMR (400 MHz, CDCl3) 5.75 (t, 1H); 3.50 (d, 1H); 2.58-2.70 (m, 1H); 1.18 (s, 9H); 0.90-1.00 (m, 1H); 0.58-0.70 (m, 2H); 0.35-0.50 (m, 2H).

reactant | N-[1-cyclopropyl-2,2-difluoro-2-(phenylsulfonyl)ethyl]-2-methylpropane-2-sulfinamide | 2.2 mmol, 0.8 g | C1(CC1)C(C(S(=O)(=O)C1=CC=CC=C1)(F)F)NS(=O)C(C)(C)C | C15H21F2NO3S2
reactant | NaOAc | 55 mmol, 4.5 g | CC(=O)[O-].[Na+]
reactant | AcOH | 75 mmol, 4.5 g | CC(=O)O | C2H4O2
reactant | Magnesium | 33 mmol, 0.8 g | [Mg] | Mg
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | H2O | 7.0 mL | O | H2O
solvent | Water | 90 mL | O | H2O
product | N-(1-Cyclopropyl-2,2-difluoroethyl)-2-methylpropane-2-sulfinamide | C1(CC1)C(C(F)F)NS(=O)C(C)(C)C | C9H17F2NOS
